US05171855
A) Preparation of N,N'-bis(4,6-dichloro-1,3,5-triazin-2-yl)-N,N'-bis(2,2,6,6-tetramethyl-4-piperidyl)-1,6-diaminohexane.
A solution of 118.20 g (0.30 mol) of N,N'-bis(2,2,6,6-tetramethyl-4-piperidyl)-1,6-diaminohexane in 150 ml of 1,2-dichloroethane is added slowly in the course of 2 hours to a solution, maintained at 0° C., containing 110.70 g (0.60 mol) of cyanuric chloride in 800 ml of 1,2-dichloroethane. 250 ml of an aqueous solution containing 25.20 g (0.63 mol) of sodium hydroxide are then added in 30 minutes at 0° C., and stirring is continued for 2 hours at 0° C. The aqueous phase is then separated off, the organic phase is washed repeatedly with water and dehydrated by means of anhydrous sodium sulfate, and a white solid of melting point 161°-163° C. is precipitated by evaporation of the solvent.

reactant | N,N'-bis(2,2,6,6-tetramethyl-4-piperidyl)-1,6-diaminohexane | 0.30 mol, 118.20 g | CC1(NC(CC(C1)NCCCCCCNC1CC(NC(C1)(C)C)(C)C)(C)C)C | C24H50N4
reactant | cyanuric chloride | 0.60 mol, 110.70 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | sodium hydroxide | 0.63 mol, 25.20 g | [OH-].[Na+]
solvent | 1,2-dichloroethane | 150 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 800 ml | ClCCCl | C2H4Cl2
product | N,N'-bis(4,6-dichloro-1,3,5-triazin-2-yl)-N,N'-bis(2,2,6,6-tetramethyl-4-piperidyl)-1,6-diaminohexane | ClC1=NC(=NC(=N1)Cl)N(CCCCCCN(C1CC(NC(C1)(C)C)(C)C)C1=NC(=NC(=N1)Cl)Cl)C1CC(NC(C1)(C)C)(C)C | C30H48Cl4N10
